US06417212B1
B. 2-(2-Butyl-5-hydroxyphenoxy)-2-methylpropionic acid ethyl ester
A solution of 2-(5-Benzyloxy-2-but-1-enylphenoxy)-2-methylpropionic acid ethyl ester (0.76 g, 2.06 mmol) in ethanol (50 mL) was treated with 5% Pd/C (0.10 g) and hydrogen (60 psi) at ambient temperature for 6 h. The mixture was filtered and concentrated in vacuo to give a colorless oil (0.52 g, 90%). 1H NMR (400 MHz, CDCl3) δ6.96 (d, J=7.8 Hz, 1H), 6.37 (dd, J=8.3, 2.4 Hz, 1H), 6.20 (s, 1H), 4.66 (br s, 1H), 4.24 (q, J=7.2 Hz, 2H), 2.53 (t, J=7.8 Hz, 2H), 1.60 (s, 6H), 1.53 (quintet, J=7.6 Hz, 2H), 1.34 (sextet, J=7.3 Hz, 2H), 1.25 (t, J=7.1 Hz, 3H), 0.92 (t, J=7.3 Hz, 3H), MS (ES) m/e 281 (M+l).

reactant | 2-(5-Benzyloxy-2-but-1-enylphenoxy)-2-methylpropionic acid ethyl ester | 2.06 mmol, 0.76 g | C(C)OC(C(C)(C)OC1=C(C=CC(=C1)OCC1=CC=CC=C1)C=CCC)=O | C23H28O4
reactant | hydrogen | [H][H] | H2
solvent | ethanol | 50 mL | C(C)O | C2H6O
catalyst | Pd/C | 0.10 g | [Pd] | Pd
product | 2-(2-Butyl-5-hydroxyphenoxy)-2-methylpropionic acid ethyl ester | 0.52 g, 90% | C(C)OC(C(C)(C)OC1=C(C=CC(=C1)O)CCCC)=O | C16H24O4
